US09216173B2
To a solution of tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4-(methylsulfanyl)butan-2-yl]carbamate (29 g, 80 mmol) in methanol (700 mL) was added Oxone (148 g, 0.241 mol) and water (700 mL) at room temperature. After 3 hours, the reaction mixture was quenched with 20% aqueous sodium bisulfate solution, diluted with water, and extracted with DCM. The combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4-(methylsulfonyl)butan-2-yl]carbamate which was used in the next step without purification. MS ESI calc'd. for C18H25N2O6S [M+H]+ 397. found 397. 1H NMR (400 MHz, CD3OD) δ 7.87-7.82 (m, 4H), 4.05-3.95 (m, 1H), 3.77-3.75 (m, 2H), 3.25-3.10 (m, 2H), 3.00 (s, 3H), 2.11-1.89 (m, 2H), 1.24 (s, 9H).

reactant | tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4-(methylsulfanyl)butan-2-yl]carbamate | 80 mmol, 29 g | O=C1N(C(C2=CC=CC=C12)=O)CC(CCSC)NC(OC(C)(C)C)=O | C18H24N2O4S
reactant | Oxone | 0.241 mol, 148 g | OOS(=O)[O-].[K+]
reactant | water | 700 mL | O | H2O
reactant | methanol | 700 mL | CO | CH4O
product | tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4-(methylsulfonyl)butan-2-yl]carbamate | O=C1N(C(C2=CC=CC=C12)=O)CC(CCS(=O)(=O)C)NC(OC(C)(C)C)=O | C18H24N2O6S
